US05342846
1-cyclopropyl-6,8-difluoro-7-[3-(1,2,3,4-tetrazol-2-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
A solution of 1-cyclopropyl-6,7,8-trifluoro-1, 4-dihydro-4-oxo-quinoline-3-carboxylic acid (28.3 mg, 0.1 mmol), 3-(1,2,3,4-tetrazol-2-yl) pyrrolidine hydrochloride (35.1 mg, 0.2 mmol) and DBU (45.6 mg, 0.3 mmol) in acetonitrile (2 ml) was refluxed under nitrogen for 23 hrs. The solvent was then evaporated to dryness. The residue was diluted with water and extracted with chloroform. The organic extract was dried over Na2SO4, concentrated and the residue was crystallized from methanol-water. Yield: 12 mg, m.p. 192°-199° C. 1H NMR (CDCl3) δ: 8.7 (s, 1H), 8.5 (s, 1H), 7.8 (dd, 1H), 5.6-5.4 (m, 1H), 4.46-3.76 (m, 5H), 2.9-2.45 (m, 2H), 1.35-1.02 (m, 4H).

reactant | 1-cyclopropyl-6,7,8-trifluoro-1, 4-dihydro-4-oxo-quinoline-3-carboxylic acid | 0.1 mmol, 28.3 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 3-(1,2,3,4-tetrazol-2-yl) pyrrolidine hydrochloride | 0.2 mmol, 35.1 mg | Cl.N=1N(N=NC1)C1CNCC1
reactant | DBU | 0.3 mmol, 45.6 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 1-cyclopropyl-6,8-difluoro-7-[3-(1,2,3,4-tetrazol-2-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(CC1)N1N=CN=N1)F)=O)C(=O)O | C18H16F2N6O3
